US03975445
42 g. of 1-formyl-3-oxo-2,5,5-trimethyl-cyclopentane, prepared according to either Example 2 or 3 are heated to boiling together with 2.1 g. of p-toluenesulfonic acid, 60 g. of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and 600 ml. of toluene for 4 hours under reflux conditions. After cooling, the mixture is filtered. The filtrate is washed with an aqueous saturated sodium bicarbonate solution, dried over sodium sulfate and evaporated under reduced pressure. There is obtained crude 1-formly-3-oxo-2,5,5-trimethyl-cyclopent-1ene as an oil, whose 2,4-dinitrophenylhydrazone has a melting point of 216°-218°C. 38 g. of the crude 1-formyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene are dissolved in 1000 ml. of ethanol. The solution is treated at 0°-5°C. within 1 hour with 2.1 g. of sodium borohydride, stirred for a further 30 minutes, introduced into water and extracted with ether. The ether is dried over sodium sulfate and evaporated under reduced pressure. There is obtained 1-hydroxymethyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene which, after recrystallization from hexane, has a melting point of 38°-39°C. 8.3 g. of the 1-hydroxymethyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene are dissolved in 170 ml. of ether. After the addition of 1 ml. of pyridine, the solution is treated dropwise at 0°C. with a solution of 2.21 ml. of phosphorus tribromide in 30 ml. of ether, stirred for 1 hour, introduced into water and extracted with ether. The ether extract is dried and evaporated. The residue is taken up in 120 ml. of ethyl acetate. The solution is treated dropwise with 14.4 g. of triphenylphosphine in 120 ml. of ethyl acetate and heated to boiling for 1 hour under reflux conditions. The methyl-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1 -yl-triphenylphosphonium bromide which crystallizes out in the cold has a melting point of 264°C.

reactant | 1-formyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene | C(=O)C1=C(C(CC1(C)C)=O)C | C9H12O2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 1-hydroxymethyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene | OCC1=C(C(CC1(C)C)=O)C | C9H14O2
